US05215982
4N Sodium hydroxide aqueous solution (125.79 ml) was added to a solution of 1-methoxycarbonylmethyl-5-triphenylmethylaminopyrazole (100 g) in dioxane (100 ml) and the mixture was stirred for three hours at ambient temperature. The reaction mixture was added to a mixture of ethyl acetate (300 ml) and tetrahydrofuran (300 ml), and 1N hydrochloric acid was added thereto to adjust to pH 3. The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-carboxymethyl-5-triphenylmethylaminopyrazole.

reactant | Sodium hydroxide | 4N, 125.79 ml | [OH-].[Na+]
reactant | 1-methoxycarbonylmethyl-5-triphenylmethylaminopyrazole | 100 g | COC(=O)CN1N=CC=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23N3O2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-carboxymethyl-5-triphenylmethylaminopyrazole | C(=O)(O)CN1N=CC=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3O2
